Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest Pain, palpitations
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year-old woman with H/O hypertension, hyperlipidemia, prior 
smoking history (quit ___ yrs ago) presenting with ___ severity 
chest pain that woke her up from sleep.

Patient awoke at 2 in the morning the day of admission with 
crushing retrosternal chest pressure and palpitations. The pain 
radiated to her neck. She also noted that she couldn't catch her 
breath. She immediately called EMS. She was found by EMS to be 
in atrial fibrillation with a rapid ventricular rate, and EKG 
was concerning for reported possible ischemia. She was given 
diltiazem 20 mg IV and had a SBP of 85 afterwards en route.

In the ED, initial vitals: VR 117 BP 137/111 RR 29 SaO2 91% on 
RA. EKG showed normal axis, sinus rhythm, flattened T wave in 
III, aVF, V4-V6 with T wave inversion in V1-V3. Labs/studies 
notable for Hgb/Hct 12.5/40.2 WBC 5.4 Plt 325 Na 139 K 4.3 Cr 
0.6 BUN 20 HCO3 23 Cl 105. Troponin-T negative x2. NT-pro-BNP 88 
Lactate 2.0. Patient was given morphine sulfate 2 mg IV, 
metoprolol tartrate 5 mg IV, NS 500 mL NS, heparin 4000 units 
IV, metoprolol tartrate 12.5 mg po. Vitals on transfer: R 88 BP 
94/57 RR 18 SaO2 95% on O2 2 LPM via NC.
 
After arrival to the cardiology ward, the patient stated she was 
currently feeling much better. She denied any activet chest pain 
or dyspnea. She noted that she was in her normal state of health 
up until she woke up overnight. She felt stressed at work and by 
life, but otherwise had no reason medical changes or health 
related issues. She denied any baseline chest pain, dyspnea, 
orthopnea, paroxysmal nocturnal dyspnea or edema.
 
Past Medical History:
Pre-diabetes mellitus
Hypertension
Hyperlipidemia
Osteopenia
Obesity
 
Social History:
___
Family History:
No family history of heart disease
 
Physical Exam:
On admission
GEN: Well appearing elderly white woman in NAD
___ 1556 Temp: 97.5 PO BP: 141/84 L Lying HR: 73 RR: 18 O2 
sat: 93% O2 delivery: RA
HEENT: Conjunctiva clear, PERRL, mucous membranes moist
NECK: No JVD.
LUNGS: CTAB
HEART: RRR, nl S1, S2. No murmurs, rubs or gallops.
ABD: Non-tender, not distended, normal bowel sounds.
EXTREMITIES: Trace edema. Warm and well-perfused.
SKIN: No rashes.
NEURO: A&Ox3.

At discharge
GEN: Well appearing, in NAD
Vitals: HR on telemetry 60-80s.
HEENT: Conjunctiva clear, mucous membranes moist
NECK: No JVD. 
LUNGS: CTAB
HEART: RRR, nl S1, S2. No murmurs, rubs or gallops.
ABD: Non-tender, not distended, normal bowel sounds.
EXTREMITIES: No peripheral edema. Warm and well perfused.
NEURO: A&Ox3.
 
Pertinent Results:
___ 02:51AM BLOOD WBC-6.8 RBC-4.65 Hgb-13.1 Hct-40.8 MCV-88 
MCH-28.2 MCHC-32.1 RDW-13.6 RDWSD-43.6 Plt ___

___ 02:51AM BLOOD Glucose-206* UreaN-23* Creat-0.7 Na-140 
K-4.2 Cl-99 HCO3-22 AnGap-19*
___ 02:51AM BLOOD Calcium-9.8 Phos-3.5 Mg-2.0
___ 07:19AM BLOOD ALT-6 AST-17 AlkPhos-71 TotBili-0.2

___ 02:51AM BLOOD cTropnT-<0.01
___ 02:51AM BLOOD proBNP-88
___ 06:06AM BLOOD cTropnT-<0.01

ECG ___
Atrial fibrillation with ventricular rate 123. Abnormal R-wave 
progression, early transition. ST depr, consider ischemia, 
anterior leads. Prolonged QT interval. No previous ECGs 
available

ECG ___
Sinus rhythm. Abnormal R-wave progression, early transition. 
Nonspecific ST-T wave abnormalities

CXR ___
The lungs are well inflated and clear. No large pleural effusion 
or pneumothorax. The cardiac silhouette is mildly enlarged. 
There is mild pulmonary vascular congestion without frank 
pulmonary edema. The aorta is tortuous, but the mediastinal and 
hilar contours are otherwise unremarkable.
IMPRESSION: Mild cardiomegaly and pulmonary vascular congestion 
without frank pulmonary edema. No focal consolidation.

Head CT ___
  Compared to the study performed in ___, there has 
been slight interval increase in size of a small right convexity 
extra-axial faintly calcified mass measuring 9 x 8 x 7 mm, 
previously 7 x 7 x 7 mm. No acute intracranial hemorrhage is 
seen.
  There is no evidence of fracture, acute large territory 
infarction, or edema. The ventricles and sulci are normal in 
size and configuration.
  The visualized portion of the paranasal sinuses, mastoid air 
cells, and middle ear cavities are clear. The visualized portion 
of the orbits are normal.
IMPRESSION: 
1. No acute intracranial hemorrhage or calvarial fracture.
2. Slight interval increase in size of 9 mm calcified 
extra-axial mass along the right frontoparietal convexity, 
likely a meningioma.

CTA Chest ___
HEART AND VASCULATURE: The heart is normal in size and shape. No 
pericardial effusion. No atherosclerotic calcifications in the 
coronary arteries, mild in the aorta and mitral annulus. The 
aorta is normal in caliber throughout. No aneurysmal dilation, 
penetrating atherosclerotic ulcers or dissection. The main 
pulmonary artery is mildly enlarged measuring 3.4 cm. No filling 
defects are noted throughout the main pulmonary artery 
throughout its subsegmental branches bilaterally.
NECK, THORACIC INLET, AXILLAE AND CHEST WALL: The thyroid is 
unremarkable. No enlarged lymph nodes in either axilla or 
thoracic inlet. No abnormalities on the chest wall. No 
atherosclerotic calcifications in the head and neck arteries.
MEDIASTINUM AND HILA: The esophagus is unremarkable. Small 
mediastinal lymph nodes, none pathologically enlarged by CT size 
criteria. No hilar lymphadenopathy.
PLEURA: No pleural effusions. No apical scarring.
LUNGS: The airways are patent to the subsegmental levels. No 
bronchial wall thickening, bronchiectasis or mucus plugging. No 
suspicious lung nodules or masses. No consolidations. Scattered 
linear atelectasis..
CHEST CAGE: No acute fractures. Moderate dorsal spondylosis. No 
suspicious lytic or sclerotic lesions.
UPPER ABDOMEN: The limited sections of the upper abdomen show no 
significant abnormal findings.
IMPRESSION: No evidence of pulmonary embolism or aortic 
abnormality. No findings suggestive of pneumonia or pulmonary 
edema.

Echocardiogram ___
The left atrial volume index is SEVERELY increased. The right 
atrium is mildly enlarged. There is no evidence for an atrial 
septal defect by 2D/color Doppler. There is mild symmetric left 
ventricular hypertrophy with a normal cavity size. There is 
normal regional and global left ventricular systolic function. 
Quantitative 3D volumetric left ventricular ejection fraction is 
67 % (normal 54-73%). Left ventricular cardiac index is normal 
(>2.5 L/min/m2). There is no resting left ventricular outflow 
tract gradient. Mildly dilated right ventricular cavity with 
normal free wall motion. The aortic sinus diameter is normal for 
gender with a normal ascending aorta diameter for gender. The 
aortic arch diameter is normal. There is no evidence for an 
aortic arch coarctation. The aortic valve leaflets (3) are 
mildly thickened. There is no aortic valve stenosis. There is no 
aortic regurgitation. The mitral valve leaflets appear 
structurally normal with no mitral valve prolapse. There is mild 
[1+] mitral regurgitation. Due to acoustic shadowing, the 
severity of mitral regurgitation could be UNDERestimated. The 
pulmonic valve leaflets are normal. The tricuspid valve leaflets 
appear structurally normal. There is mild [1+] tricuspid 
regurgitation. There is mild pulmonary artery systolic 
hypertension. There is a trivial pericardial effusion. 
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size, mildly dilated right ventricle, and 
regional/global biventricular systolic function. Mild mitral and 
tricuspid regrugitation. Mild pulmonary hypertension.

Stress test ___
___ yo woman with HL, HTN and pre-DM, prior smoker and obesity 
was referred to evaluate her chest discomfort and shortness of 
breath while in atrial fibrillation with RVR. The patient 
completed 11 minutes of a Gervino protocol representing an 
average exercise tolerance for her age; ~ ___ METS. Exercise was 
stopped due to fatigue and progressive shortness of breath. No 
chest, back, neck or arm discomforts were reported. In the 
presence of baseline nonspecific ST segment changes, no 
additional ST segment changes were noted during the procedure. 
The rhythm was sinus with frequent isolated APBs and one, 4-bt 
run of PAT/PAF noted during exercise. Rare isolated VPBs were 
noted. Resting systolic hypertension with an appropriate blood 
pressure and heart rate response to exercise.
IMPRESSION: Average exercise tolerance. No anginal symptoms, 
palpitations or ischemic ST segment changes. Frequent isolated 
APBs with one, 4-bt run of PAT/PAF. Resting systolic 
hypertension with an appropriate blood pressure and heart rate 
response to exercise.

Discharge Labs:
___ 07:19AM BLOOD WBC-4.7 RBC-4.49 Hgb-12.7 Hct-40.4 MCV-90 
MCH-28.3 MCHC-31.4* RDW-13.5 RDWSD-44.8 Plt ___
___ 10:17AM BLOOD Neuts-60.4 ___ Monos-7.6 Eos-1.5 
Baso-0.6 Im ___ AbsNeut-3.24 AbsLymp-1.57 AbsMono-0.41 
AbsEos-0.08 AbsBaso-0.03
___ 07:18AM BLOOD Glucose-166* UreaN-14 Creat-0.6 Na-142 
K-4.3 Cl-102 HCO3-28 AnGap-12
 
Brief Hospital Course:
Ms. ___ is a ___ year-old woman with history of hypertension, 
hyperlipidemia and depression, who presented with severe chest 
pain with associated shortness of breath and palpitations. She 
was found to be in newly diagnosed atrial fibrillation with a 
rapid ventricular rate (RVR). Patient received IV diltiazem and 
IV metoprolol in the ED prior to spontaneously converting to 
normal sinus rhythm. The patient was subsequently started on 
apixaban 5 mg BID as well as metoprolol 50 mg daily (increased 
from home dose 25 mg daily). Patient also underwent ETT given 
her chest pain which revealed no ST changes concerning for 
ischemia and no reproduction of anginal chest pain.

ACUTE ISSUES:
=============
# Paroxysmal Atrial Fibrillation, CHDS2VASc2 of 3, chest pain: 
Patient initially noted chest pani with associated shortness of 
breath and palpitations that awoke her from her sleep. She 
described her chest pain as retrosternal and as a crushing 
pressure that radiated into her neck. She subsequently called 
EMS who found her to be in atrial fibrillation with a RVR. She 
received diltiazem 20 mg IV en route to the ED. Upon arrival to 
the ED, patient was tachycardic and tachypneic and placed on O2 
2 LPM via NC. She received metoprolol 5 mg IV and repeat EKG 
found her to be in NSR with flattened T waves in leads III and 
aVF as well as with T wave inversions in leads V1-3. Troponin-T 
was negative x2 and NT-pro0BNP was low as well. CTA showed no 
evidence of pulmonary embolus, pneumonia or pulmonary edema. 
Upon arrival to the cardiology ward, the patient was 
asymptomatic and remained in NSR. She was started on heparin IV 
and metoprolol tartrate 12.5 mg po q6h. The following day she 
was transitioned to apixaban 5 mg BID as well as metoprolol 
succinate 50 mg daily. Echocardiogram revealed mild pulmonary 
hypertension (PASP 34 mm Hg above RA pressure) and severe left 
atrial dilatation, with LVEF 67% with no regional wall motion 
abnormalities and only mild mitral regurgitation. On review of 
her ___ records, patient has a history of palpitations and 
recently had a Holter monitor for 48 hours this past ___ which 
was unrevealing. Given patient's description of chest pain and 
associated EKG changes, patient underwent non-imaging ETT to 5.7 
METs which revealed no ST changes concerning for ischemia and no 
reproduction of her presenting chest pain.

CHRONIC ISSUES:
# Hyperlipidemia: Continued home statin.

# Depression: Continued home venlafaxine. 

# Hypertension: Continued metoprolol as above and home losartan

TRANSITIONAL ISSUES:
[] Patient discharged on metoprolol succinate 50 mg daily 
(increased from 25 mg ) for better rate control of AF. Please 
f/u HRs on new dose
[] Patient started on apixaban 5 mg BID for anticoagulation 
given atrial fibrillation with CHADS-VASC2 score of 3
[] Patient had an non-imaging exercise stress test that did not 
show any evidence of ischemia and patient was chest pain free. 
If she has chest pain, would consider imaging stress test as an 
outpatient
[] Patient will be discharged with a Ziopatch 2 week monitor, 
with plan for cardiology follow up with Dr ___

DISCHARGE WEIGHT: 207.45 lbs (94.2 kg)
DISCHARGE Cr: 0.6
CODE: Full
CONTACT: ___ (husband) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Venlafaxine XR 300 mg PO DAILY 
2. Furosemide 40 mg PO DAILY 
3. Pravastatin 40 mg PO QPM 
4. Losartan Potassium 100 mg PO DAILY 
5. Metoprolol Succinate XL 25 mg PO DAILY
 
Discharge Medications:
1.  Apixaban 5 mg PO BID  
2.  Metoprolol Succinate XL 50 mg PO DAILY  
3.  Furosemide 40 mg PO DAILY  
4.  Losartan Potassium 100 mg PO DAILY  
5.  Pravastatin 40 mg PO QPM  
6.  Venlafaxine XR 300 mg PO DAILY
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Paroxysmal Atrial Fibrillation 
-Chest pain 
-Dynamic abnormal electocardiographic abnormalities concerning 
for unstable angina, but no objective evidence of ischemia on 
non-imaging exercise stress test
-Hyperlipidemia
-Hypertension
-Depression
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because your heart rate was very fast.
  
WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- You were found to be in atrial fibrillation, a heart rhythm 
that makes your heart beat fast and less coordinated.
- You received medications which slowed your heart rate 
successfully.
- You were found to spontaneously convert out of atrial 
fibrillation into a normal heart rhythm. 
- You were started on a new medication called apixaban 
(Eliquis), a blood thinner that prevents clots in people who go 
into atrial fibrillation. 
- You had an exercise stress test, which did not show any 
findings of underlying coronary artery disease.

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Be sure to take all your medications and attend all of your 
appointments listed below. 

Thank you for allowing us to be involved in your care, we wish 
you all the best! 
 
Your ___ Team 
 
Followup Instructions:
___